US05134142
A mixture of 1-(4-aminophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile (1 g), methyl iodide (0.42 g) and potassium carbonate (0.6 g) in N,N-dimethylformamide (10 ml) was stirred at ambient temperature for 1 hour. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue (1.2 g) was purified by column chromatography on silica gel (20 g) eluting with chloroform to give crystals of 1-[4-(methylamino)phenyl]-5-[4-(methylsulfonyl)phenyl]pyrazole-3 -carbonitrile (0.31 g).

reactant | 1-(4-aminophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile | 1 g | NC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C17H14N4O2S
reactant | methyl iodide | 0.42 g | CI | CH3I
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(methylamino)phenyl]-5-[4-(methylsulfonyl)phenyl]pyrazole-3 -carbonitrile | 0.31 g | CNC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C18H16N4O2S
